US05130335
E. Ethyl 4-hydroxy-3,5-dimethylbenzoate
A mixture of 500 mg (3 mmol) of 4-hydroxy-3,5-dimethylbenzoic acid, 20 ml of absolute ethanol and a catalytic amount of anhydrous HCl was heated at reflux for 2 h. The mixture was then poured into excess cold water and the resultant precipitate was filtered. The precipitate was washed with water and dried in-vacuo to give the title compound as a white solid.

reactant | 4-hydroxy-3,5-dimethylbenzoic acid | 3 mmol, 500 mg | OC1=C(C=C(C(=O)O)C=C1C)C | C9H10O3
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | Ethyl 4-hydroxy-3,5-dimethylbenzoate | OC1=C(C=C(C(=O)OCC)C=C1C)C | C11H14O3
